US07915293B2
Procedure for the Synthesis of N-(3-chlorophenyl)-4-(2-(trifluoromethyl)phenoxy)piperidine-1-carboxamide (305)
A solution of 4-(2-trifluoromethylphenoxy)piperidine hydrochloride (42 mg, 0.15 mmol), 3-chlorophenyl isocyanate (36 mg, 0.30 mmol), and N,N-diisopropylethylamine (78 μL, 0.45 mmol) was stirred in dichloromethane (2 mL) at room temperature for overnight. The reaction mixture was diluted with dichloromethane and the solution was washed successively with 1N HCl, and NaHCO3 (sat.)/brine. The organic fraction was dried over MgSO4, filtered, and concentrated. The compound was purified by radial silica gel chromatography (1:20 to 1:2 ethyl acetate:hexanes) to afford the product which was 98% pure by LCMS analysis (15.7 mg, 26%).

reactant | 4-(2-trifluoromethylphenoxy)piperidine hydrochloride | 0.15 mmol, 42 mg | Cl.FC(C1=C(OC2CCNCC2)C=CC=C1)(F)F
reactant | 3-chlorophenyl isocyanate | 0.30 mmol, 36 mg | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | N,N-diisopropylethylamine | 0.45 mmol, 78 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(3-chlorophenyl)-4-(2-(trifluoromethyl)phenoxy)piperidine-1-carboxamide | ClC=1C=C(C=CC1)NC(=O)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C19H18ClF3N2O2
